US06794403B2
Step a) 2-[5-Methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole-7-yl]propan-2-ol
The title compound was prepared according to the procedure of Example 43, Step a, from 7-bromo-5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole, employing acetone as the electrophile, to give a white solid (78% yield, m.p. 149° C.); MS m/e 314 (M+H)+.

reactant | 7-bromo-5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)OC)OC | C15H12BrNO3
solvent | acetone | CC(=O)C | C3H6O
product | 2-[5-Methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole-7-yl]propan-2-ol | COC=1C=C(C2=C(N=C(O2)C2=CC=C(C=C2)OC)C1)C(C)(C)O | C18H19NO4
